US06174877B1
2-(1-Triphenylmethyl-1,2,3-triazol-4-yl)ethanol
In toluene (90 ml) were dissolved triphenylmethyl azide (8.23 g) and 3-butyn-1-ol (2.2 ml). The solution was heated for 60 hours under reflux. The reaction mixture was concentrated under reduced pressure. The concentrate was purified by means of a column chromatography (carrier: silica gel, 150 g, developing solvent: ethyl acetate). The resulting crystalline product was washed with isopropyl ether to give the title compound (3.06 g).

reactant | triphenylmethyl azide | 8.23 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)N=[N+]=[N-] | C19H15N3
reactant | 3-butyn-1-ol | 2.2 ml | C(CC#C)O | C4H6O
solvent | toluene | 90 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(1-Triphenylmethyl-1,2,3-triazol-4-yl)ethanol | 3.06 g | C1(=CC=CC=C1)C(N1N=NC(=C1)CCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H21N3O
